US09085555B2
D. (5-Acetyl-pyrrolo[2,3-d]pyrimidin-7-yl)-acetic acid
A solution of (5-acetyl-pyrrolo[2,3-d]pyrimidin-7-yl)-acetic acid tert-butyl ester (146 mg, 0.53 mmol) and TFA (0.814 mL, 10.62 mmol) in CH2Cl2 (2.5 mL) was stirred at RT for 24 h. Solvents were removed under reduced pressure and the material thus obtained was used without further purification in the next step. 1H-NMR (400 MHz, DMSO): δ (ppm): 9.45 (s, 1H), 9.0 (s, 1H), 8.68 (s, 1H), 7.66-7.56 (m, 2H), 5.16 (s, 2H), 2.53 (s, 3H).

reactant | (5-acetyl-pyrrolo[2,3-d]pyrimidin-7-yl)-acetic acid tert-butyl ester | 0.53 mmol, 146 mg | C(C)(C)(C)OC(CN1C=C(C2=C1N=CN=C2)C(C)=O)=O | C14H17N3O3
reactant | TFA | 10.62 mmol, 0.814 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | (5-Acetyl-pyrrolo[2,3-d]pyrimidin-7-yl)-acetic acid | C(C)(=O)C1=CN(C=2N=CN=CC21)CC(=O)O | C10H9N3O3
